US07622583B2
A mixture of 4-chloro-N-[5-chloro-2-(2-chloro-3-methyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (58.6 mg, 1.03 mmol) in 4 N HCl in dioxane (4 mL) and water (1 mL) was stirred at 100° C. for overnight. The reaction mixture was cooled to room temperature, evaporated to dryness and treated with saturated aqueous NaHCO3 solution till pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was purified via column chromatography (SiO2, 70% EtOAc in hexanes) to afford 4-chloro-N-[5-chloro-2-(2-chloro-3-methyl-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (34.5 mg) in 64% yield. 1H NMR (400 MHz, CDCl3) δ 11.00 (s, 1 H), 8.24 (d, 1 H), 8.18 (m, 1 H) 8.17 (d, 1 H), 7.98 (dd, 1 H), 7.63 (d, 1 H), 7.35 (d, 1 H), 7.24 (t, 1 H), 7.1 (d, 1 H), 2.37 (s, 3H); ESMS m/z (relative intensity): 522.9 (M+H)+ (100), 544.9 (M+Na)+ (100).

reactant | 4-chloro-N-[5-chloro-2-(2-chloro-3-methyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.03 mmol, 58.6 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C(=CC=C1)C)Cl)=O)C(F)(F)F | C22H16Cl3F3N2O4S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[5-chloro-2-(2-chloro-3-methyl-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 34.5 mg, 64% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C(=CC=C1)C)Cl)=O)C(F)(F)F | C20H12Cl3F3N2O3S
